US08003659B2
Step K: Synthesis of ethyl 3,5-bis(trifluoromethyl)phenylphosphinate AZ3.
To a degassed solution of 1-iodo-3,5-bistrifluoromethylbenzene (10.0 g, 29.4 mmol), anilinium hypophosphite (5.62 g, 35.3 mmol) and 3-aminopropyl triethoxysilane (7.81 g, 35.3 mmol) in anhydrous acetonitrile (200 mL) were added palladium acetate (132 mg, 0.588 mmol, 2 mol %) and 1,3-bis(diphenylphosphino)propane (267 mg, 0.647 mol, 2.2 mol %). The mixture was heated under reflux overnight, then cooled down to room temperature, diluted with ethyl acetate and hydrochloric acid (1 M), and partitioned. The aqueous layer was further extracted with ethyl acetate and the combined extracts were washed with aqueous sodium hydrogen carbonate and brine, and dried over sodium sulfate. The volatiles were removed in vacuo, and the residue was purified by column chromatography using 30 to 70% ethyl acetate in petroleum ether to afford compound AZ3 (4.65 g) as a cloudy oil in 52% yield.

reactant | 1-iodo-3,5-bistrifluoromethylbenzene | 29.4 mmol, 10.0 g | IC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C8H3F6I
reactant | anilinium hypophosphite | 35.3 mmol, 5.62 g | [PH2](=O)[O-].[NH3+]C1=CC=CC=C1
reactant | 3-aminopropyl triethoxysilane | 35.3 mmol, 7.81 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | 1,3-bis(diphenylphosphino)propane | 0.647 mol, 267 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1 M | Cl | ClH
catalyst | palladium acetate | 0.588 mmol, 132 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 3,5-bis(trifluoromethyl)phenylphosphinate | 52% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)P(OCC)=O)(F)F | C10H9F6O2P
